US05175157
N-[2-(3,4-Dimethoxy-phenyl)-ethyl]-3-(hydroxymethyl)piperidine
A mixture of 2.30 g (0.02 mol) of 3-(hydroxymethyl)piperidine, 5.5 ml (0.04 mol) of triethylamine and 4.90 g (0.02 mol) of 2-(3,4-dimethoxy-phenyl)-ethyl bromide is refluxed for 2 hours. After cooling, the reaction mixture is dissolved in a mixture of 2 molar sodium hydroxide solution and methylene chloride. The organic phase is washed with water, separated off, dried over magnesium sulphate, evaporated down in vacuo and purified over 300 g of aluminium oxide (neutral, activity II-III) with methylene chloride and then with increasing amounts of ethanol (up to 2%). Yield: 4.4 g (78.7% of theory), Melting point: 87.5°-89° C.

reactant | 3-(hydroxymethyl)piperidine | 0.02 mol, 2.30 g | OCC1CNCCC1 | C6H13NO
reactant | triethylamine | 0.04 mol, 5.5 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(3,4-dimethoxy-phenyl)-ethyl bromide | 0.02 mol, 4.90 g | COC=1C=C(C=CC1OC)CCBr | C10H13BrO2
solvent | sodium hydroxide | 2 molar | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[2-(3,4-Dimethoxy-phenyl)-ethyl]-3-(hydroxymethyl)piperidine | COC=1C=C(C=CC1OC)CCN1CC(CCC1)CO | C16H25NO3
